US07964608B2
1-Cyclopentyl-7-methoxy-3-p-tolyl-1H-pyrimido[5,4-c]quinoline-2,4-dione (26 mg) was prepared from 4-cyclopentylamino-8-methoxy-quinoline-3-carboxylic acid ethyl ester (0.1 mmol) and 1-isocyanato-4-methyl-benzene (0.5 mmol) following general procedure C. LCMS: m/z 402 [M+1]+. 1H NMR (400 MHz, CDCl3): δ 9.49 (s, 1H), 7.84 (d, 1H), 7.61 (t, 1H), 7.38 (m, 1H), 7.34 (m, 1H), 7.32 (m, 1H), 7.24 (d, 1H), 7.08 (d, 1H), 5.03 (p, 1H), 4.16 (s, 3H), 2.43 (m, 2H), 2.29 (s, 3H), 2.08 (m, 4H), and 1.24 (m, 2H) ppm.

reactant | 4-cyclopentylamino-8-methoxy-quinoline-3-carboxylic acid ethyl ester | 0.1 mmol | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1NC1CCCC1)OC | C18H22N2O3
reactant | 1-isocyanato-4-methyl-benzene | 0.5 mmol | N(=C=O)C1=CC=C(C=C1)C | C8H7NO
product | 1-Cyclopentyl-7-methoxy-3-p-tolyl-1H-pyrimido[5,4-c]quinoline-2,4-dione | 26 mg | C1(CCCC1)N1C(N(C(C=2C=NC=3C(=CC=CC3C21)OC)=O)C2=CC=C(C=C2)C)=O | C24H23N3O3
